US07612114B2
(R)-6-{2-{[4-(2-Aminoethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester. (31 mg) and a saturated ammonia solution in chloroform (0.1 ml) according to an analogous synthetic method to Example 806, the title compound (0.7 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[(4-carboxymethylbenzyl)ethylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | C(=O)(O)CC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C33H39NO5
reactant | ammonia | N | H3N
solvent | chloroform | 0.1 ml | C(Cl)(Cl)Cl | CHCl3
product | (R)-6-{2-{[4-(2-Aminoethyl)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 0.7 mg | NCCC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1 | C28H34N2O2
